US07615568B2
G. 2-(cis-4-tert-Butoxycarbonylaminocyclohexyloxy)-4-methylthiobenzoic Acid
The reaction mixture containing 2-(cis-4-aminocyclo-hexyloxy)-4-methylthiobenzoic acid was diluted with 1000 mL of MeOH, and triethyl amine (31.83 mL, 228.39 mmol) was added. A solution of Boc2O (49.85 g, 228.39 mmol) in 150 mL MeOH was added over 30 min, and the resulting solution stirred at 23° C. for 16 h. The reaction mixture was diluted with 1000 mL of H2O and the MeOH was evaporated in vacuo. The resulting mixture was again diluted with 1000 mL of H2O and the aqueous layer was extracted with 2×800 mL of 1:1 methyl tert-butyl ether (MTBE):hexane. Acetic acid (27.13 mL, 473.93 mmol) was added to the aqueous layer, and it was extracted with 2×1000 mL EtOAc. The combined organic layers were washed with 4×2000 mL of H2O, dried over Na2SO4, filtered and concentrated in vacuo to give a white solid. The crude product was slurried in 600 mL of MTBE at reflux, cooled to 0° C. over 2 h, and filtered to give 53.97 g (62%) of the title compound. The mother liquor was concentrated in vacuo, and the resulting solid purified by silica gel chromatography using a gradient of 4/96 to 7/93 IPA/CHCl3 to give another 21.2 g of the title acid. Total combined yield was 75.17 g (86%).

reactant | 2-(cis-4-aminocyclo-hexyloxy)-4-methylthiobenzoic acid | N[C@H]1CC[C@H](CC1)OC1=C(C(=S)O)C=CC(=C1)C | C14H19NO2S
reactant | triethyl amine | 228.39 mmol, 31.83 mL | C(C)N(CC)CC | C6H15N
reactant | Boc2O | 228.39 mmol, 49.85 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Acetic acid | 473.93 mmol, 27.13 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | 1000 mL | CO | CH4O
solvent | MeOH | 150 mL | CO | CH4O
solvent | H2O | 1000 mL | O | H2O
solvent | MTBE | 600 mL | C(C)(C)(C)OC | C5H12O
product | 2-(cis-4-tert-Butoxycarbonylaminocyclohexyloxy)-4-methylthiobenzoic Acid | 53.97 g, 62% | C(C)(C)(C)OC(=O)N[C@H]1CC[C@H](CC1)OC1=C(C(=S)O)C=CC(=C1)C | C19H27NO4S
